US07354920B2
a) 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethylsulfanyl-phenyl)-ethanol
The procedure for the synthesis of example 1a, 1-(4-benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol, was followed using 1-bromomethyl-2-trifluoromethylsulfanyl-benzene (available from Fluorochem Ltd.) as starting material and making non-critical variations, to yield the title compound. 1H NMR (300 MHz, CDCl3) δ: 2.05-2.33 (m, 3H), 2.49-2.65 (m, 1H), 3.10-3.35 (m, 2H), 3.43-3.55 (m, 1H), 3.67-3.89 (m, 2H), 3.91-4.08 (m, 2H), 4.09-4.22 (m, 1H), 6.91-7.05 (m, 1H), 7.10-7.42 (m, 12H), 7.50-7.63 (m, 1H) ppm.

reactant | 1-(4-benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC)(O)C1=CC=CC=C1 | C26H29NO3
reactant | 1-bromomethyl-2-trifluoromethylsulfanyl-benzene | BrCC1=C(C=CC=C1)SC(F)(F)F | C8H6BrF3S
product | 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethylsulfanyl-phenyl)-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)SC(F)(F)F)(O)C1=CC=CC=C1 | C26H26F3NO2S
